US08455477B2
4-(benzyloxy)-6-bromopyrazolo[1,5-a]pyridine (200 mg, 0.660 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (412 mg, 1.979 mmol), tetrakis(triphenylphosphine)palladium (0) (76 mg, 0.066 mmol), and sodium carbonate (210 mg, 1.98 mmol) were suspended in 1,4-dioxane (4 ml)/water (0.444 ml). The mixture was sparged with argon for 10 minutes, then heated to 90° C. for 2 h. After cooling to ambient temperature, the reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to afford 4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine contaminated with triphenylphosphine oxide.

reactant | 4-(benzyloxy)-6-bromopyrazolo[1,5-a]pyridine | 0.660 mmol, 200 mg | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Br)N=CC2 | C14H11BrN2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.979 mmol, 412 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 1.98 mmol, 210 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.444 ml | O | H2O
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.066 mmol, 76 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2 | C18H16N4O
